2121-08-21 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: This AM patient is without complaints. Denies chest
   pain, shortness of breath, cough shoulder pain.
   24 Hour Events:
   [**2121-8-20**]:  TTE showed: Severe LV systolic dysfunction (LVEF 20-25%)
   consistent with multi-vessel CAD. Right ventricular function is normal
   - the free wall is nearly hyperdynamic, likely compensating for the
   akinetic septum. At least mild to moderate mitral regurgitation.
   Moderate pulmonary artery systolic hypertension.  Given lasix 40 mg IV
   x 1 for evidence of left heart systolic failure on exam, TTE, and cough
   productive of pink-tinged sputum improved.
   Per pt, has h/o statin intolerance [**1-6**] myalgias in past -> will
   monitor.  Continued heparin gtt for now.  CT [**Doctor First Name 213**] consult -> Please
   obtain UA, HbA1c, CXR(PA&LAT), carotid u/s, repeat WBC. Cycle cardiac
   enzymes (all ordered).  Will d/w Dr. [**Last Name (STitle) **]
   [**Name (STitle) **] CK ~4000, now enzymes trending down
   History obtained from Patient
   Allergies:
   History obtained from PatientShellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2121-8-20**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-21**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 93 (87 - 106) bpm
   BP: 91/59(65) {76/48(55) - 117/78(86)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,171 mL
                                                                    221 mL
   PO:
                                                                    560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    611 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    500 mL
   Urine:
                                                                  1,940 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,769 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally at the
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Ext: R groin site clean, dry, intact with no evidence of hematoma or
   bruits
   GU: Notable ecchymosis of glans penis and scrotum. No tenderness.
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   13.9 g/dL
   218 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.2 mEq/L
   22 mg/dL
   102 mEq/L
   139 mEq/L
   41.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2121-8-20**]  04:00 AM
                             [**2121-8-20**]  11:24 AM
                             [**2121-8-20**]  10:54 PM
   WBC
   18.5
   Hct
   41.2
   Plt
   237
   Cr
   0.9
   TropT
   7.89
   5.51
   3.82
   Glucose
   218
   Other labs: PT / PTT / INR:13.4/29.3/1.1, CK / CKMB /
   Troponin-T:2113/195/3.82, ALT / AST:60/434, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:95.2 %, Lymph:3.0 %, Mono:1.1 %, Eos:0.6 %,
   Albumin:4.0 g/dL, LDH:875 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ASSESSMENT AND PLAN  71 yo male with severe 3vd not amenable to PTCA
   intervention
   # STEMI/CAD: long standing and with significant RF:
   - Aspirin 162
   - Carvedilol to be titrated up to HR of 50-60 as BP tolerates
   - ACE-I
   - Heparin gtt
   - Atorvastatin 80. Will watch closely for myalgias given Pt's history
   of intolerance to statins
   - Lipid Panel obtained
   - HgbA1C pending
   - CSURG to be called in am. Will f/u w/ CSURG regarding possible CABG.
   Pre-op workup ordered.
   .
   # [**Name (NI) **]
   - Pt w/ EF of 20-25% on ECHO
   - Diuresed well yesterday. Today w/ decreased 02 requirements
   (Currently on 1 L), improved lung exam.
   - Can give give 40 Lasix IV X 1 later in day if BP allows (Currently
   90/50)
   - Will wean 02 as tolerated
   .
   #Thyroid
   - large goiter noted on CXR yesterday
   - TFTs ordered, will f/u
   .
   #GU
   -Pt w/ notable ecchymosis of glans penis and scrotum, likely from blood
   tracking s/p catheterization. Pt denies tenderness but did report
   drop
 of blood in urine.
   -Will check u/a, follow groin exam, PM Hct. Low threshold to consult
   urology.
   .
   # leucocytosis: although most likely due to MI, in the setting of
   productive cough could be due to infection. currently stable and
   afebrile. will hold empiric treatment untill further results
   - cultures negative to date. will continue to follow.
   .
   FEN:  cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with s.c hep to be changed to weight based
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) **]
   ADDENDUM: PT w/ episode of angina this AM. Given SL nitro with some
   relief. Discussed w/ attending, will place balloon [**Name (NI) 632**] today, w/ plan
   to go to Csurg tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-8-20**] 10:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-08-22 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 IABP LINE - START [**2121-8-21**] 01:08 PM
   Patient with left shoulder pain in am, thought to be anginal equivalent
   with ECG changes similar to pre-cath.
   IABP placed, at 1:1 --> CSurg aware, plan for OR in AM.
   Hct 35 -> 33.6 --> 31.4  --> 29.2  Csurg requested Stat CT this am to
   rule out RP bleed
   TFTs wnl
   Carotid dopplers obtained bedside --> 40% ICA stenoses b/l
   Overnight, patient asymptomatic and resting comfortably.  Continues on
   Nitro drip and heparin drip.  This AM, patient reports feeling well.
   Denies CP, SOB, any other symptoms.
   Tele:  NSR, no events
   Allergies:
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.25 mcg/Kg/min
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-22**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 82 (73 - 103) bpm
   BP: 104/58(82) {80/49(67) - 110/72(91)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 120.5 kg
   Height: 69 Inch
             Total In:
                                                                    514 mL
                                                                    134 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    394 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    350 mL
   Urine:
                                                                  1,835 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,321 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, alert and oriented, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, S1, S2, no murmurs appreciated, distant heart
   sounds
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally at the
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Ext: R groin site clean, dry, intact with no evidence of hematoma or
   bruits.  Left groin with femoral IABP.
   GU: Notable ecchymosis of glans penis and scrotum. No tenderness.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Neurologic: Responds to: verbal stimuli
   Labs / Radiology
   184 K/uL
   10.2 g/dL
   223 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   37 mg/dL
   102 mEq/L
   138 mEq/L
   29.2 %
   18.0 K/uL
        [image002.jpg]
                             [**2121-8-20**]  04:00 AM
                             [**2121-8-20**]  11:24 AM
                             [**2121-8-20**]  10:54 PM
                             [**2121-8-21**]  06:25 AM
                             [**2121-8-21**]  01:14 PM
                             [**2121-8-21**]  10:42 PM
                             [**2121-8-21**]  10:43 PM
                             [**2121-8-22**]  04:24 AM
   WBC
   18.5
   23.3
   18.0
   Hct
   41.2
   35.0
   33.6
   31.4
   29.2
   Plt
   237
   226
   184
   Cr
   0.9
   0.9
   1.0
   TropT
   7.89
   5.51
   3.82
   3.37
   3.48
   Glucose
   [**Telephone/Fax (3) 10085**]
   Other labs: PT / PTT / INR:13.7/63.8/1.2, CK / CKMB /
   Troponin-T:533/31/3.48, ALT / AST:60/434, Alk Phos / T Bili:57/0.6,
   Differential-Neuts:95.2 %, Lymph:3.0 %, Mono:1.1 %, Eos:0.6 %,
   Albumin:4.0 g/dL, LDH:875 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   71 yo male with HTN, gout, STEMI s/p cath showing severe 3vd not
   amenable to PTCA intervention.  Plan for CABG this AM.
   # STEMI/CAD: long standing and with significant diffuse disease.  S/p
   Cath with only balloon angioplasty to OM2 (showed LAD with 80% ostial
   lesion and total occlusion in midportion, occluded RCA, 90% Cx
   stenosis)
   - IABP placed yesterday after episode of CP and ECG changes; currently
   at 1:1
   - Aspirin 162
   - Carvedilol to be titrated up to HR of 50-60 as BP tolerates;
   currently at 6.25 [**Hospital1 7**]
   - lisinopril 5mg daily
   - Heparin gtt
   - Atorvastatin 80. Will watch closely for myalgias given Pt's history
   of intolerance to statins
   - HgbA1C 6.2
   - CSURG to be called in am. Will f/u w/ CSURG regarding possible CABG.
   Pre-op workup ordered.
   .
   # Pump:  Pt w/ EF of 20-25% on ECHO, Severe LV systolic dysfunction,
   normal to hyperdynamic RV, mild to moderate MR.
   - IABP placed yesterday after episode of CP and ECG changes; currently
   at 1:1
   - Has been auto-diuresing well w/ decreased 02 requirements (Currently
   on 2 L), improved lung exam.
   - Will wean 02 as tolerated
   .
   # Declining Hct: CT this AM to rule out RP bleed.
   -plan per CSurg
   .
   #Thyroid
   - large goiter noted on CXR yesterday
   - TFTs ordered -> wnl
   .
   #GU
   -Pt w/ notable ecchymosis of glans penis and scrotum, likely from blood
   tracking s/p catheterization. Pt denies tenderness but did report
   drop
 of blood in urine.
   -Will check u/a
 shows blood, no evidence infection
   - groin exam stable
   - Low threshold to consult urology.
   .
   # leucocytosis: although most likely due to MI, in the setting of
   productive cough could be due to infection. currently stable and
   afebrile. will hold empiric treatment untill further results
   - cultures negative to date. will continue to follow.
   .
   FEN:  cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with s.c hep to be changed to weight based
   .
   CODE: FULL CODE
   .
   COMM: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-8-20**] 10:17 PM
   IABP line - [**2121-8-21**] 01:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: